US04880781
Boc-Ile+2-(aminomethyl)pyridine→Boc-Ile-AMP
Stir 3.15 g (13.6 mmoles) of Boc-Ile, 2.08 g (13.6 mmoles) of 1-HOBT, and 1.34 g (12.3 mmoles) of 2-(aminomethyl)pyridine in 150 ml of CH2Cl2 for 10 minutes. Add 2.81 g (13.6 mmoles) of DCC and stir at room temperature for 35 minutes, then filter off DCU. Extract the filtrate with aq. NaHCO3, filter the organic layers through Na2SO4, and concentrate. Filter off DCU again, then chromatograph the crude production silica gel, eluting with 4% MeOH-CH2Cl2, to obtain 3.94 g (100%) of product. The product, Boc-Ile-AMP, is crystallized from EtOAc-hexane to give a first crop of 2.28 g with a m.p. of 102°-103.5°. Second and third crops totalling 1.50 g are also collected. Calc. for C17H27N3O3 : C, 63.52; H, 8.47; N, 13.07. Found: C, 63.37; H, 8.55; N, 12.86.

reactant | Boc-Ile | 13.6 mmoles, 3.15 g | N([C@@H]([C@@H](C)CC)C(=O)O)C(=O)OC(C)(C)C | C11H21NO4
reactant | 2-(aminomethyl)pyridine | 12.3 mmoles, 1.34 g | NCC1=NC=CC=C1 | C6H8N2
reactant | DCC | 13.6 mmoles, 2.81 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | CH2Cl2 | 150 ml | C(Cl)Cl | CH2Cl2
product | Boc-Ile 2-(aminomethyl)pyridine | 3.94 g, 100% | N([C@@H]([C@@H](C)CC)C(=O)O)C(=O)OC(C)(C)C.NCC1=NC=CC=C1 | InChI=1S/C11H21NO4.C6H8N2/c1-6-7(2)8(9(13)14)12-10(15)16-11(3,4)5;7-5-6-3-1-2-4-8-6/h7-8H,6H2,1-5H3,(H,12,15)(H,13,14);1-4H,5,7H2/t7-,8-;/m0./s1
